US20010029039A1
Dehydrated acetone of 240 ml was put in a 3-necked round-bottom flask, potassium iodide (0.06 mol), potassium carbonate (0.11 mol), and phenol (0.07 mol) were added to stir sufficiently. In this solution, 5-bromo valeric acid ethyl ester (0.06 mol) was dropped in a nitrogen atmosphere and refluxed at 60±5° C. to react for 24 hours. After completion of the reaction, a reaction solution was exsiccated to condensation using an evaporator, and dissolved again in methylene chloride, and water was added to the solution to separate and an organic layer was dehydrated by using magnesium sulfate anhydride followed by exsiccation for condensation using the evaporator. Hot methanol was added to a dried matter (reactant) yielded to dissolve and cooled slowly to precipitate again, resulting in a yield of 5-phenoxy valeric acid ethyl ester (PxVA). At this point, the yield ratio of this ester to 5-bromo valeric acid ethyl ester was 72 mol %.

reactant | potassium iodide | 0.06 mol | [I-].[K+]
reactant | potassium carbonate | 0.11 mol | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 0.07 mol | C1(=CC=CC=C1)O | C6H6O
reactant | 5-bromo valeric acid ethyl ester | 0.06 mol | C(C)OC(CCCCBr)=O | C7H13BrO2
solvent | acetone | CC(=O)C | C3H6O
product | 5-phenoxy valeric acid ethyl ester | C(C)OC(CCCCOC1=CC=CC=C1)=O | C13H18O3
